US07888352B2
To 2-Chloro-7-methyl-4-morpholin-4-yl-6-piperazin-1-ylmethyl-thieno[3,2-d]pyrimidine (100 mg) in anhydrous DCM (2 ml) and triethylamine (1.5 equiv., 60 μl) at 0° C. was added benzenesulfonyl chloride (1.3 equiv., 45.5 μl) and the reaction mixture was allowed to warm up to room temperature overnight. Chloroform/brine extraction and purification on silica gave 2-chloro-6-(4-benzenesulfonyl-piperazin-1-ylmethyl)-7-methyl-4-morpholin-4-yl-thieno[3,2-d]pyrimidine (104 mg).

reactant | 2-Chloro-7-methyl-4-morpholin-4-yl-6-piperazin-1-ylmethyl-thieno[3,2-d]pyrimidine | 100 mg | ClC=1N=C(C2=C(N1)C(=C(S2)CN2CCNCC2)C)N2CCOCC2 | C16H22ClN5OS
reactant | triethylamine | 60 μl, 1.5 equiv. | C(C)N(CC)CC | C6H15N
reactant | benzenesulfonyl chloride | 45.5 μl, 1.3 equiv. | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | DCM | 2 ml | C(Cl)Cl | CH2Cl2
product | 2-chloro-6-(4-benzenesulfonyl-piperazin-1-ylmethyl)-7-methyl-4-morpholin-4-yl-thieno[3,2-d]pyrimidine | 104 mg | ClC=1N=C(C2=C(N1)C(=C(S2)CN2CCN(CC2)S(=O)(=O)C2=CC=CC=C2)C)N2CCOCC2 | C22H26ClN5O3S2
